** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/register/schematic/register.sch
**.subckt register in vdd vss out en noten
*.iopin in
*.iopin vdd
*.iopin vss
*.iopin out
*.iopin en
*.iopin noten
x1 vdd net1 in vss inverter
x2 net1 vdd noten net2 vss en transmissiongate
x3 vdd net3 net2 vss inverter
x4 vdd net4 net3 vss inverter
x5 net1 vdd noten net2 vss en transmissiongate
x6 net4 vdd noten net2 vss en transmissiongate
x7 vdd net5 net3 vss inverter
x8 net5 vdd noten net6 vss en transmissiongate
x9 vdd out net6 vss inverter
x10 vdd net7 out vss inverter
x11 net5 vdd noten net6 vss en transmissiongate
x12 net7 vdd noten net6 vss en transmissiongate
**.ends

* expanding   symbol:  blocks/inverter/schematic/inverter.sym # of pins=4
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/inverter/schematic/inverter.sch
.subckt inverter vdd out in vss
*.iopin vdd
*.iopin out
*.iopin vss
*.iopin in
XM1 out in vss vss sg13_lv_nmos w=0.15u l=0.13u ng=1
XM2 out in vdd vdd sg13_lv_pmos w=0.5u l=0.13u ng=1
.ends


* expanding   symbol:  blocks/transmissiongate/schematic/transmissiongate.sym # of pins=6
** sym_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/transmissiongate/schematic/transmissiongate.sym
** sch_path: /home/eamtastudent/EAMTA2026-VLSI/design/blocks/transmissiongate/schematic/transmissiongate.sch
.subckt transmissiongate in vdd noten out vss en
*.iopin noten
*.iopin en
*.iopin in
*.iopin out
*.iopin vdd
*.iopin vss
XM1 out noten in vdd sg13_lv_pmos w=1.5u l=0.15u ng=1
XM2 out en in vss sg13_lv_nmos w=0.75u l=0.15u ng=1
.ends

.end
